US07091215B2
N-Cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-oxetanylmethyl)amine
After dissolving N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-oxetanylmethyl)amine (8 mg) in N,N-dimethylformamide (2 mL), sodium hydride (60%, 1.6 mg) was added while cooling on ice, and then cyclopropylmethyl bromide (3.8 μL) was added and the mixture was stirred at room temperature for 12 hours. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (1.8 mg) was obtained from the n-hexane:ethyl acetate (10:1) fraction as a yellow oil.

reactant | N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-oxetanylmethyl)amine | 8 mg | COC1=C(C(=CC(=C1)C)C)C1=CC=CC=2N1N=C(C2NCC2OCC2)SC | C21H25N3O2S
reactant | sodium hydride | 1.6 mg | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 3.8 μL | C1(CC1)CBr | C4H7Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-oxetanylmethyl)amine | 1.8 mg | C1(CC1)CN(CC1OCC1)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C25H31N3O2S
